US06087380
f) 2-[N-(4-Cyanophenyl)-aminomethyl]-thiazolo[5,4-b]-pyridin-6-yl-carboxylicacid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide
A mixture of 1.54 g (3.85 mMol) of 2-methoxymethyl-thiazolo[5,4-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide and 4.3 ml (4.3 mMol) of a 1 molar solution of boron tribromide in methylene chloride was dissolved in a further 30 ml of methylene chloride and stirred for 5 hours at room temperature. Then the mixture was washed with 40 ml of saturated sodium hydrogen carbonate solution, the organic phase was dried with sodium sulphate and the solvent was distilled off. The crude product (1.9 g) was taken up in 15.0 ml of N,N-diisopropyl-ethylamine, mixed with 0.50 g (4.2 mMol) of 4-aminobenzonitrile and heated to boiling for one hour. Then the solvent was distilled off in vacuo, the crude product was taken up in 100 ml of methylene chloride, the organic phase was washed with 100 ml of water and dried with sodium sulphate. After the solvent had been removed in vacuo the crude product obtained was purified by flash chromatography (silica gel; ethyl acetate/petroleum ether=35:65 to 1:1) and evaporated down again in vacuo. Yield: 0.45 g (24% of theory) of yellow amorphous solid, Rf value: 0.34 (silica gel; ethyl acetate/petroleum ether=1:1)

reactant | 2-methoxymethyl-thiazolo[5,4-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 3.85 mMol, 1.54 g | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)SC(=N2)COC)CCC(=O)OCC | C20H21N3O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 4-aminobenzonitrile | 4.2 mMol, 0.50 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[N-(4-Cyanophenyl)-aminomethyl]-thiazolo[5,4-b]-pyridin-6-yl-carboxylicacid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)SC(=N2)CNC2=CC=C(C=C2)C#N)CCC(=O)OCC | C26H23N5O3S
